Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
CABG ___ 

 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of diabetes, 
hyperlipidemia, hypertension, and smoking. Over the past two 
weeks, he noted multiple episodes of chest pain mostly occuring 
at rest. He described the pain as retrosternal, radiating to his 
face and left jaw, lasting minutes to an hour, and occuring ___ 
times per day. On the morning of presentation, he had more of a 
grabbing/pressure like pain in his left chest. He also endorsed 
headache and shortness of breath. He presented to the emergency 
department for further evaulation. A CTA was performed to rule 
out dissection and was negative. Initial troponin was positive 
at 0.24. An EKG demonstrated a right bundle branch block and ST 
depressions in leads V4-V6. Cardiology was consulted in the ER 
and he was started on IV heparin with plan for cardiac 
catheterization. Cardiac catheterization revealed multivessel 
coronary artery disease and he was referred to cardiac surgery 
for evaluation.
 
Past Medical History:
PMHx:
1. Hypertension, essential [401.9] ___ new RBBB on routine EKG. 
___: adenosine MIBI neg for ischemia.
2. DM (diabetes mellitus), type 2 with neurological 
complications [250.60]
3. Hypercholesterolemia [272.0] ___
4. OBESITY UNSPEC [278.00] ___
5. GAIT ABNMLTY [781.2] ___
6. IMPOTENCE DUE TO ERECTILE DYSFUNCTION [607.84] ___
7. SLEEP APNEA - OBSTRUCTIVE [327.23] ___. Stopped CPAP
8. MENIERE'S DISEASE, UNSPEC [386.00]
9. DERMATITIS - SEBORRHEIC, UNSPEC [690.10]
10. CHRONIC DAILY HEADACHE
PSHx:
 ___ pilonidal sinus/cyst ___
 ___ 2.1-3 cm
lipoma on back
 Tarsal tunnel release ___
left foot with partial plantar fasciectomy & spur removal
 ___ ___
left thumb CMC jt
CAD-s/p CABG ___
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Vitals-  98.1, 142/81, 65, 18, 99% RA
General: NAD, sitting comfortably in bed, jovial and pleasant
HEENT: MMM, EOMI, no icterus
Cardiac: Normocardic, regular, no MRG
Vascular: JVP visible 2-3cm above sternal angle with HOB at 30 
degr. Extr wwp with 2+ radial, dp/pt pulses. 
Lungs: no incr WOB sitting upright. minimal bibasilar crackles, 
incr RR with lying flat but no increase in subjective dyspnea 
Abdomen: obese, nontender - otherwise limited by habitus 
GU: no foley 
Neuro: AOX3, grossly nonfocal
Skin: dry skin on LEs with absent hair, otherwise no lesions

 
Pertinent Results:
TEE ___:
Findings  
LEFT ATRIUM: No spontaneous echo contrast or thrombus in the 
___ or the RA/RAA. 
RIGHT ATRIUM/INTERATRIAL SEPTUM: Normal RA size. No ASD by 2D or 
color Doppler. 
LEFT VENTRICLE: Mild symmetric LV hypertrophy with normal cavity 
size, and global systolic function (biplane LVEF>55%). 
RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 
AORTA: Normal aortic diameter at the sinus level. Focal 
calcifications in aortic root. Normal ascending aorta diameter. 
Focal calcifications in ascending aorta. Normal aortic arch 
diameter. 
AORTIC VALVE: Mildly thickened aortic valve leaflets (3). No AS. 
Trace AR. 
MITRAL VALVE: Mildly thickened mitral valve leaflets. Trivial 
MR. 
___ VALVE: Normal tricuspid valve leaflets with trivial 
TR. 
PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflet. 
No PS. Physiologic PR. 
PERICARDIUM: No pericardial effusion. 

PRE-BYPASS: 
No spontaneous echo contrast or thrombus is seen in the body of 
the left atrium/left atrial appendage or the body of the right 
atrium/right atrial appendage. No atrial septal defect is seen 
by 2D or color Doppler. Mild symmetric left ventricular 
hypertrophy with normal cavity size, and global systolic 
function (biplane LVEF = 55 %). Right ventricular chamber size 
and free wall motion are normal. The aortic valve leaflets (3) 
are mildly thickened but aortic stenosis is not present. Trace 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Trivial mitral regurgitation is seen. There is 
no pericardial effusion. POST-BYPASS: 
Preserved biventricular systolic function.
LVEF 55%.
Intact thoracic aorta.
No other new findings.   

___ 07:24AM BLOOD WBC-15.7* RBC-4.37* Hgb-13.5* Hct-38.6* 
MCV-88 MCH-31.0 MCHC-35.1* RDW-15.2 Plt ___
___ 07:10AM BLOOD WBC-13.6* RBC-4.27* Hgb-13.3* Hct-37.7* 
MCV-88 MCH-31.2 MCHC-35.3* RDW-15.1 Plt ___
___ 07:05AM BLOOD WBC-10.3 RBC-3.83* Hgb-12.0* Hct-34.2* 
MCV-89 MCH-31.3 MCHC-35.1* RDW-15.1 Plt ___
___ 12:50PM BLOOD Na-133 K-4.4 Cl-95*
___ 07:24AM BLOOD Glucose-155* UreaN-25* Creat-1.2 Na-133 
K-5.2* Cl-95* HCO3-22 AnGap-21*
___ 12:50PM BLOOD UreaN-21* Creat-1.1 Na-133 K-4.9 Cl-96 
HCO3-26 AnGap-16
___ 07:05AM BLOOD Glucose-114* UreaN-21* Creat-1.1 Na-136 
K-5.0 Cl-99 HCO3-25 AnGap-17
___ 06:30AM BLOOD Glucose-85 UreaN-26* Creat-1.1 Na-136 
K-4.2 Cl-98 HCO3-28 AnGap-14
___ 05:05AM BLOOD Glucose-144* UreaN-27* Creat-0.9 Na-135 
K-4.0 Cl-99 HCO3-27 AnGap-13
 
Brief Hospital Course:
He underwent routine preoperative testing and evaluation. 
Carotid ultrasound revealed bilateral carotid artery stenosis, 
right > left. The vascular surgery service was consulted. Given 
that he is asypmtomatic, recommendation is to follow up with Dr. 
___ as an outpatient for further evaluation. He remained 
hemodynamically stable and was taken to the operating room on 
___. He underwent coronary artery bypass grafting x 3. 
Please see operative note for full details. He tolerated the 
procedure well and was transferred to the CVICU in stable 
condition for recovery and invasive monitoring. 
 
He weaned from sedation, awoke neurologically intact and was 
extubated on POD 1. He was weaned from inotropic and vasopressor 
support. Beta blocker was initiated and he was diuresed toward 
his preoperative weight. His chest tubes were discontinued on 
POD#1 and his epicardial pacing wires were discontinued on 
POD#3.  He had a +UTI and was started on Bactrim. He was started 
on Kefzol for sternal drainage which resolved by the time 
discharge and kefzol was stopped. He remained hemodynamically 
stable and was transferred to the telemetry floor for further 
recovery.  He was evaluated by the physical therapy service for 
assistance with strength and mobility and rehab was recommended. 
By the time of discharge on POD #8 he was ambulating with 
supervision,  the sternal wound was healing without redness or 
drainage, and pain was controlled with oral analgesics. He was 
discharged to ___ Rehab in good condition with appropriate 
follow up instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 1 mg PO BID 
2. Simvastatin 80 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Diazepam 5 mg PO PRN nausea 
5. Lisinopril 5 mg PO DAILY 
6. MetFORMIN (Glucophage) 1000 mg PO BID 
7. Glargine 38 Units Dinner
8. fluocinolone acetonide oil 0.01 % otic DAILY 
9. Omeprazole 40 mg PO DAILY 
10. Propranolol LA 60 mg PO DAILY 
11. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
12. TraZODone 100 mg PO QHS:PRN insomnia 
13. Acetaminophen 325-650 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4H:PRN pain, fever 
2. Aspirin EC 81 mg PO DAILY 
3. ClonazePAM 1 mg PO BID:PRN anxiety 
RX *clonazepam 1 mg 1 tablet(s) by mouth twice a day Disp #*65 
Tablet Refills:*0
4. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
5. Glargine 38 Units Dinner
6. MetFORMIN (Glucophage) 1000 mg PO BID 
7. Omeprazole 40 mg PO DAILY 
8. Simvastatin 80 mg PO DAILY 
9. TraZODone 100 mg PO QHS:PRN insomnia 
10. BuPROPion (Sustained Release) 150 mg PO BID 
11. Docusate Sodium 100 mg PO BID 
12. Fluocinolone Acetonide 0.01% Solution 1 Appl TP DAILY 
13. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN wheezes 
14. Metoprolol Tartrate 25 mg PO BID 
15. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth very 6 hours Disp #*65 
Tablet Refills:*0
16. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 5 Days 
17. Furosemide 20 mg PO BID Duration: 5 Days 
18. Potassium Chloride 20 mEq PO DAILY Duration: 5 Days 
19. fluocinolone acetonide oil 0.01 % otic DAILY 
20. Atorvastatin 80 mg PO QPM 
21. Diazepam 5 mg PO PRN nausea 
RX *diazepam 5 mg 1 tablet by mouth prn Disp #*25 Tablet 
Refills:*0
22. Outpatient Lab Work
plaese check BUN/Creat on ___  and if greater than 1.3, please 
continue to follow until off lasix and bactrim and returns to 
baseline of 1.0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: NSTEMI
Secondary:
IDDM
HTN
Hyperlipidemia
GERD, s/p gastric ulcer ___ yrs ago
vertigo
chronic back pain
chronic headaches
deaf left ear
coronary artery disease s/p CABG ___
Past Surgical History: prostatectomy ___

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with Oxycodone 
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Left - healing well, no erythema or drainage. 
Edema trace
 

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___